US07951819B2
N-(5-(2-Amino-3-nitropyridin-4-yloxy)-2-chlorophenyl)-3-(trifluoromethoxy)benzamide
Method H was used with 4-(3-amino-4-chlorophenoxy)-3-nitropyridin-2-amine and 3-(trifluoromethoxy)benzoyl chloride to afford the title compound as a yellow solid (0.153 g, 33%). 1H NMR δ (DMSO): 6.11 (d, 1H, Hpy,5, J=5.5 Hz), 7.18 (dd, 1H, Harom,5, J=3+9 Hz), 7.23 (s, 2H, NH2), 7.53 (d, 1H, Harom,2, J=3 Hz), 7.63 (dt, 1H, Harom, J=1+8 Hz), 7.66 (d, 1H, Harom,6, J=9 Hz), 7.70 (t, 1H, Harom,5, J=8 Hz), 7.91 (s, 1H, Harom,2′), 8.02 (dt, 1H, Harom, J=1+8 Hz), 8.07 (d, 1H, Hpy,6, J=5.5 Hz), 10.63 (s, 1H, NHamide). 19F NMR δ (DMSO): −56.37 (s, 3F, CF3).

reactant | 4-(3-amino-4-chlorophenoxy)-3-nitropyridin-2-amine | NC=1C=C(OC2=C(C(=NC=C2)N)[N+](=O)[O-])C=CC1Cl | C11H9ClN4O3
reactant | 3-(trifluoromethoxy)benzoyl chloride | FC(OC=1C=C(C(=O)Cl)C=CC1)(F)F | C8H4ClF3O2
product | N-(5-(2-Amino-3-nitropyridin-4-yloxy)-2-chlorophenyl)-3-(trifluoromethoxy)benzamide | 0.153 g, 33% | NC1=NC=CC(=C1[N+](=O)[O-])OC=1C=CC(=C(C1)NC(C1=CC(=CC=C1)OC(F)(F)F)=O)Cl | C19H12ClF3N4O5
